US07001897B2
1-(4-Azidomethyl-1,3-thiazol-2-yl)-3-t-butyldiphenylsilyloxyazetidine (2.12 g, 4.71 mmol) (obtained as described in Reference Example 62(1)) in methanol (106 ml) was subjected to catalytic reduction in the presence of 20% palladium hydroxide (2.12 g) at room temperature. After checking the completion of the reaction, the reaction mixture was filtered in order to remove the catalyst and the filtrate concentrated under reduced pressure. The residue was dissolved in methylene chloride (100 ml). To the mixture were added methyl chloroformate (0.43 ml, 5.65 mmol) and triethylamine (0.79 ml, 5.65 mmol), and the mixture was stirred at room temperature for 2 hours. After checking the completion of the reaction, the mixture was distilled under reduced pressure. The residue was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate as the eluant to afford 3-t-butyldiphenylsilyloxy-1-[4-(methoxycarbonylamino-methyl)-1,3-thiazol-2-yl]azetidine (1.88 g, yield 45%) as pale yellow oil.

reactant | 1-(4-Azidomethyl-1,3-thiazol-2-yl)-3-t-butyldiphenylsilyloxyazetidine | 4.71 mmol, 2.12 g | N(=[N+]=[N-])CC=1N=C(SC1)N1CC(C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C23H27N5OSSi
reactant | methyl chloroformate | 5.65 mmol, 0.43 ml | ClC(=O)OC | C2H3ClO2
reactant | triethylamine | 5.65 mmol, 0.79 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 106 ml | CO | CH4O
catalyst | palladium hydroxide | 2.12 g | [OH-].[Pd+2].[OH-]
product | 3-t-butyldiphenylsilyloxy-1-[4-(methoxycarbonylamino-methyl)-1,3-thiazol-2-yl]azetidine | 1.88 g, yield 45% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)CNC(=O)OC | C25H31N3O3SSi
